US07262202B2
3,5-Dimethyl-4-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-1H-pyrrole-2-carbonitrile [31]
To a mixture of 4-(3-dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carbonitrile (1.0 mmol, 0.22 g) and 3-nitrophenyl guanidine nitrate (1.5 mmol, 0.36 g) in 2-methoxyethanol (5 mL) was added K2CO3 (138 mg, 1.0 mmol). The reaction mixture was heated at 120° C. under N2 for 18 h. The solvent was evaporated to dryness and the residue was purified by flash chromatography (1:2 EtOAc/heptane) to afford the title compound as a light-yellow solid. M.p. 258–259° C. MS: [M+H]+=336.1 (C17H14N6O2 requires 334.3). 1H-NMR (CD3OD) δ: 2.39 (s, 3H, CH3), 2.49 (s, 3H, CH3), 6.94 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 7.50 (t, 1H, J=8.3 Hz, Ph-H), 7.81 (m, 1H, Ph-H), 7.94 (m, 1H, Ph-H), 8.45 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 8.94 (t, 1H, J=2.2 Hz, Ph-H).

reactant | 4-(3-dimethylamino-acryloyl)-3,5-dimethyl-1H-pyrrole-2-carbonitrile | 1.0 mmol, 0.22 g | CN(C=CC(=O)C=1C(=C(NC1C)C#N)C)C | C12H15N3O
reactant | 3-nitrophenyl guanidine nitrate | 1.5 mmol, 0.36 g | [N+](=O)(O)[O-].[N+](=O)([O-])C=1C=C(C=CC1)NC(=N)N
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 2-methoxyethanol | 5 mL | COCCO | C3H8O2
product | 3,5-Dimethyl-4-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-1H-pyrrole-2-carbonitrile | CC1=C(NC(=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])C)C#N | C17H14N6O2
